US09422244B2
15 g (1 mol equiv.) 4,4-Dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide was dissolved in 300 mL methanol, 50.4 mL (10 mol equiv.) iodomethane was added and the reaction mixture was heated at 50° C. for 3 hours. Volatiles were removed in vacuo. The residue was taken up in DCM and extracted with 5% aqueous NaHCO3. The organic layer was washed twice with water, dried over Na2SO4, filtered and evaporated to dryness to give 15.5 g (96%) N-ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ 1.16 (t, J=7.3 Hz, 3H), 1.20 (s, 6H), 2.45 (s, 3H), 3.49 (s, 2H), 3.53 (q, J=7.3 Hz, 2H), 6.66 (s, 1H).

reactant | 4,4-Dimethyl-4,5-dihydro-pyrazole-1-carbothioic acid ethylamide | 1 mol, 15 g | C(C)NC(=S)N1N=CC(C1)(C)C | C8H15N3S
reactant | iodomethane | 10 mol, 50.4 mL | IC | CH3I
solvent | methanol | 300 mL | CO | CH4O
product | N-ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 15.5 g, 96% | CSC(=NCC)N1N=CC(C1)(C)C | C9H17N3S
